Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / lactose
 
Attending: ___.
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ulcerative colitis, HTN, HLD, T2DM and prior strokes
presents for evaluation after being found to be hyponatremic.

Per ED dash:
Son at bedside reports no change in nutritional intake, reports
she has been urinating more. No new seizures or activity, 
patient
is non verbal at baseline. Patient also has persistent concerns
about discharge around G tube site, was seen by Dr. ___ in
clinic on ___, G tube was replaced and not thought to be
infected; son reports persistent erythema and purulence at site

In the ED, initial VS were: T 98.1 HR 90 BP 135/108 RR18 O2 Sat
97% RA BG 114 

Exam notable for:
aphasic, neuro baseline
+foul smelling discharge at G tube site
abd non distended, non guarded
non edematous extremities

Labs showed: Na 123, K 5.2, Cl 82, HCO3 24, BUN 15, Cr .5 serum
Osms 254, WBC 13.8, Hgb 9.7, Plt 253

Imaging showed:
CXR: without acute intrathoracic process

Patient received:
___ 03:07 IV CefTRIAXone  ___ Started  
___ 03:07 IVF  NS  ___ Started  
___ 04:00 IVF  NS  ___ Started  
___ 04:26 IV CefTRIAXone 1 gm ___ Stopped (1h
___  
___ 04:26 IVF  NS 500 mL ___ Stopped (1h ___ 


___ 04:28 IVF  NS 500 mL ___ Stopped (___)  
___ 05:06 IV Magnesium Sulfate (2 gm ordered)
___ Started  

Transfer VS were: T 97.2 HR 82 BP 117/58 RR 16 O2 Sat 100% RA 

On arrival to the floor, patient opens eyes to commands and
tracks but does not speak or otherwise follow commands. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
HTN
HLD
DMII
Ulcerative Colitis
Asthma
Fibromyalgia
Vit D Deficiency
Prior BPPV vs. labyrinthitis tx w/ Meclizine
Lumbar spinal stenosis
GERD
s/p hysterectomy
OA
Nephrolithiasis
 
Social History:
___
Family History:
___ aneurysm, thyroid d/o
Father-HTN, CAD
___ CA              

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 97.6 115 / 74 77 18 95 RA 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, to anterior uscultation
GI: abdomen soft, nondistended, G tube in place with skin
breakdown and purulent drainage adjacent to site
EXTREMITIES: WWP no cyanosis, clubbing, or edema
NEURO: Alert, tracks, does not speak or otherwise follow 
commands
or move extremities
DERM: Skin breakdown over coccyx and inner thighs

DISCHARGE PHYSICAL EXAM
98.8 Axillary12___ / ___ 
GENERAL: NAD, able to give single word response on occasion,
opened eyes to voice. Not able to follow commands
HEENT: AT/NC, anicteric sclera
NECK: supple
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, to anterior auscultation.
GI: abdomen soft, nondistended, G tube in place with no visible 
purulence or erythema
EXTREMITIES: WWP no cyanosis, clubbing, or edema
NEURO: Awake, did not track 
DERM: unable to turn patient to evaluate wound
 
Pertinent Results:
ADMISSION LABS

___ 10:32PM BLOOD WBC-13.8* RBC-3.01* Hgb-9.7* Hct-28.6* 
MCV-95 MCH-32.2* MCHC-33.9 RDW-14.2 RDWSD-49.0* Plt ___
___ 10:32PM BLOOD Neuts-65.6 Lymphs-12.6* Monos-9.7 
Eos-8.4* Baso-0.4 NRBC-0.1* Im ___ AbsNeut-9.03* 
AbsLymp-1.73 AbsMono-1.33* AbsEos-1.15* AbsBaso-0.05
___ 10:32PM BLOOD ___ PTT-96.4* ___
___ 10:32PM BLOOD Glucose-92 UreaN-15 Creat-0.5 Na-123* 
K-5.2 Cl-82* HCO3-24 AnGap-17
___ 10:32PM BLOOD Calcium-9.3 Phos-2.8 Mg-1.3*
___ 10:36PM BLOOD Na-120* K-4.9

NOTABLE HOSPITAL COURSE LABS

___ 05:25AM BLOOD TSH-96*
___ 07:20AM BLOOD T4-1.4*

Cosyntropin stim test:
pre administration:
___ 05:00AM BLOOD Cortsol-12.0
after administration:
___ 05:30AM BLOOD Cortsol-25.1*
___ 06:00AM BLOOD Cortsol-27.2*

DISCHARGE LABS

___ 06:05AM BLOOD WBC-9.9 RBC-2.48* Hgb-8.0* Hct-25.6* 
MCV-103* MCH-32.3* MCHC-31.3* RDW-16.2* RDWSD-57.0* Plt ___
___ 06:05AM BLOOD Glucose-199* UreaN-14 Creat-0.5 Na-135 
K-4.9 Cl-94* HCO3-27 AnGap-14
___ 06:05AM BLOOD Albumin-3.3* Calcium-9.2 Phos-4.5 Mg-1.8
___ 06:05AM BLOOD TSH-105*
___ 06:05AM BLOOD Free T4-0.5*

NOTABLE IMAGING
CHEST X RAY PA AND LATERAL ___
PA and lateral views of the chest provided.
 
There is no focal consolidation, effusion, or pneumothorax.  
Aortic knob
calcifications visualized otherwise the cardiomediastinal 
silhouette is
normal.
 
IMPRESSION: 
 
No acute intrathoracic process.
 
Brief Hospital Course:
PATIENT SUMMARY FOR ADMISSION
___ with ulcerative colitis, HTN, HLD, T2DM and prior strokes 
presents for evaluation after being found to be hyponatremic by 
home ___. Patient was also found to be severely hypothyroid and 
had a urinary tract infection on presentation. Etiology of 
hyponatremia likely due to combination of extrarenal losses from 
diarrhea, SIADH, and hypothyroidism. Blood sodium level was 
slowly increased with IV NS boluses as well as changing tubefeed 
regimen. Salt tabs were also started with resolution of 
hyponatremia. Patient was found to be severely hypothyroid and 
levothyroxine was started with plan to continue titrating up 
levothyroxine dose following discharge. Urine culture in the 
emergency department grew pseudomonas which was sensitive to 
ciprofloxacin and patient completed 3 day course. Patient was 
discharged on salt tabs and modified tubefeed regimen as well as 
50 mcg daily levothyroxine.

ACUTE ISSUES:
===============
# Hyponatremia:
# Diarrhea:
# SIADH:
Na incidentally found to be 123. Uosm >100, UNa<20 on admission, 
consistent with hypovolemia, likely due to diarrhea at home 
(unknown etiology) contributing to extrarenal losses. Patient 
did have antibiotic treatment after arriving at the hospital but 
suspicion for C. diff was low as diarrhea started prior to 
admission. Hypothyroidism possibly contributing as well (see 
below). Noted that duloxetine can cause hyponatremia in the 
elderly, but the time course of hyponatremia did not fit this as 
being a cause. Patient was initially given IV NS with 
appropriately slow response of ~6 mEq/24 hours increase in serum 
Na. Patient was also determined to have a component of SIADH 
with urine Na>40 and urine osm>100 on later urine electrolyte 
check. Tubefeeds were adjusted to have higher solute content and 
minimize free water intake. Salt tabs were started with good 
response. Patient was discharged on salt tabs and new tubefeed 
regimen per nutrition and sodium level on discharge was 135. The 
patient was provided with a script for a lab draw on discharge 
and the need for monitoring was communicated with her outpatient 
provider.

# Hypothyroidism
TSH was checked as part of euvolemic hyponatremia workup. Found 
to be 96 with FT4 1.4. Endocrine was consulted and recommended 
starting levothyroxine at 50 mcg with long term plan to titrate 
up dose. Cosyntropin stim test was performed to rule out adrenal 
insufficiency; result was normal. Additionally, tubefeeds were 
changed to 20 hours a day as levothyroxine absorption is 
disrupted by continuous tubefeeds. TSH and FT4 were rechecked on 
discharge but were pending at discharge. See transitional issues 
for long-term plan regaring levothyroxine.

# Urinary tract infection
Patient with positive urinalysis on admission w/ nitrites and 
___, WBC in urine and mild leukocytosis. Patient was treated with 
3 days of ceftriaxone while urine culture pended. Urine culture 
from ED grew pseudomonas aeruginosa, so patient also received 3 
day course of ciprofloxacin.

# Nutrition
Patient's tubefeed regimens were switched around several times 
this admission as the team pursued tubefeed regimen initially 
that would limit free water and maximize solute, and then had to 
readjust again to make 4 hour gap in the day to administer 
levothyroxine. Patient was discharged on new tubefeed regimen 
per nutrition. Additionally, patient received zinc and ascorbic 
acid repletion to continue on discharge for 11 and 3 additional 
days, respectively

# Skin breakdown
Patient admitted with coccyx and partially on inner thighs. Per 
son, patient had much worse pressure ulcers upon discharge from 
a nursing home she was briefly put in earlier this year. Wound 
care was consulted and their recommendations were followed.

CHRONIC ISSUES:
===============
# Non-insulin dependent type 2 diabetes
Home metformin and glipizide were held while in house and 
patient was on humalog sliding scale. Blood glucose levels were 
well controlled with the exception of one day when patient was 
on osmolite - resolved with switch back to glucerna tubefeeds.

# UC
Continued home mesalamine and ursodiol

# Hx of CVA
Continued home asa, statin. Continued home keppra, 
methylphenidate

# GERD: 
Continued home PPI

# Constipation
Continued home bowel reg

TRANSITIONAL ISSUES
===================
[ ] Several changes were made this admission that could affect 
patient's sodium levels including new tubefeed regimen, starting 
salt tabs, and treating her hypothyroidism. She will need close 
monitoring of her sodium level in the period following 
discharge. The patient was provided with a script for a lab draw 
on discharge. 

[ ] Note that patient has been on duloxetine, which is known to 
cause hyponatremia in the elderly. Though the time course of her 
hyponatremia does not necessarily suggest that this is a factor 
in her hyponatremia, this medication should be noted moving 
forward and one might consider whether this medication is 
actually providing any benefit to her.

[ ] Patient was found to be severely hypothyroid this admission. 
The endocrinologists have recommended the following scheduling 
of tracking thyroid function tests (TFT's) and adjusting 
levothyroxine (Lt4) doses:
-Recheck TFT's on ___ including TSH and free T4 (NOT T4 by 
dialysis). If T4/T3 labs show an increase and she continues to 
tolerate the medication, continue levothyroxine at 50mcg.
- ___ Increase levothyroxine to 75mcg
- ___ Recheck TSH and ___ If absorption is good and TSH begins to respond, then 
increase levothyroxine to 100 mcg. Based on her initial weight, 
goal levothyroxine (1.6x weight in kilos) would be around 122.5.

MEDICATION CHANGES
New medications:
[ ] Sodium chloride tabs 1 gm po/ng tid
[ ] Levothyroxine sodium 50 mcg po/ng daily
[ ] Zinc sulfate 220 mg po/ng daily for 11 additional days
[ ] Ascorbic acid ___ mg po/ng bid for 3 additional days

Changed medications:
None

Held medications:
None

Name of health care ___
Relationship:son
Phone ___
Cell ___
Code: full presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 81 mg PO DAILY 
2. DULoxetine 60 mg PO DAILY 
3. LevETIRAcetam 750 mg PO Q12H 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. Nystatin Ointment 1 Appl TP QID:PRN Intertriginous candidasis 
 
6. GlipiZIDE XL 5 mg PO BID 
7. Atorvastatin 20 mg PO QPM 
8. Docusate Sodium 100 mg PO BID 
9. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN sob or wheezing 
10. Senna 8.6 mg PO BID:PRN Constipation 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
13. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
14. Mesalamine 500 mg PO TID 
15. MethylPHENIDATE (Ritalin) 5 mg PO BID 
16. metFORMIN 500 mg/5 mL oral Q12H 
17. Ursodiol 500 mg PO BID 
18. budesonide 0.5 mg/2 mL inhalation TID 
19. Heparin 5000 UNIT SC BID 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO BID 
RX *ascorbic acid (vitamin C) 500 mg 1 tablet(s) by mouth twice 
a day Disp #*6 Tablet Refills:*0 
2.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
3.  Sodium Chloride 1 gm PO TID 
RX *sodium chloride 1 gram 1 tablet(s) by mouth three times a 
day Disp #*180 Tablet Refills:*0 
4.  Zinc Sulfate 220 mg PO DAILY Duration: 14 Days 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth daily 
Disp #*11 Capsule Refills:*0 
5.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Aspirin EC 81 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
9.  Budesonide 0.5 mg/2 mL inhalation TID  
10.  Docusate Sodium 100 mg PO BID  
11.  DULoxetine 60 mg PO DAILY  
12.  GlipiZIDE XL 5 mg PO BID  
13.  Heparin 5000 UNIT SC BID  
14.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN sob or wheezing 
 
15.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
16.  LevETIRAcetam 750 mg PO Q12H  
17.  Mesalamine 500 mg PO TID  
18.  metFORMIN 500 mg/5 mL oral Q12H  
19.  MethylPHENIDATE (Ritalin) 5 mg PO BID  
20.  Multivitamins W/minerals 1 TAB PO DAILY  
21.  Nystatin Ointment 1 Appl TP QID:PRN Intertriginous 
candidasis   
22.  Senna 8.6 mg PO BID:PRN Constipation  
23.  Ursodiol 500 mg PO BID  
24.Outpatient Lab Work
Patient will need Chem 10 checked on ___.
ICD 10 E87.1
Please send results to: 
Name: ___ 
Location: ___, ___. 
Address: ___ 
Phone: ___ 
Fax: ___ 
Specimen may be dropped off at ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Hyponatremia
Syndrome of inappropriate antidiuretic hormone secretion
Hypothyroidism
Acute uncomplicated urinary tract infection
Sacral ulcer
Diarrhea

SECONDARY DIAGNOSES
Non-insulin dependent diabetes mellitus type 2
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a low blood sodium level.

What was done for me while I was in the hospital?  
- In the hospital, it was determined that your low blood sodium 
level was due to a combination of factors including but not 
limited to diarrhea, hypothyroidism, and extra levels of a 
hormone which makes your body hold extra water. You were given 
IV fluids with sodium in them to increase your blood sodium 
level. Additionally, your tubefeeds were modified as your 
medical team and nutritionists tried to determine the optimal 
tubefeeding regimen for you. You were also started on salt tabs 
to help keep your sodium level from falling.

- You were found to have a very low level of thyroid hormone in 
your body. The thyroid affects several functions in your body 
including metabolism and electrolyte balance. You were seen by 
our endocrinologists and started on a medication given through 
your PEG tube to replenish thyroid hormone.

- You were also incidentally found to have a urinary tract 
infection, which was treated with a full course of the 
appropriate antibiotics.

- You were continued on your home medications for your chronic 
illnesses as appropriate.

What should I do when I leave the hospital?  
- Be sure to take all of your medications exactly as prescribed.

- You are being discharged on a modified tubefeeding regimen 
which will only be running for 20 hours in the day. This is 
because one of your new medications called levothyroxine, which 
is meant to treat your hypothyroidism, is not well absorbed when 
tubefeeds are running. Therefore, please take your levothyroxine 
exactly 2 hours after stopping tubefeeds each day.

- Please limit water flushes to 100 mL with medications only. 

- Given the changes we have made during this hospital admission, 
you will need your sodium level checked frequently in the period 
following discharge.

- Additionally, our endocrinologists have recommended a specific 
schedule of checking thyroid function tests and thyroid hormone 
levels with appropriate dose adjustments in your thyroid 
medication for the next few weeks. A copy of these instructions 
will be forwarded to your home nurses.

- Be sure to attend all of your follow up appointments as 
scheduled.

Sincerely,  
Your ___ Care Team  

MEDICATION CHANGES
New medications:
[ ] Sodium chloride tabs 1 gm po/ng tid
[ ] Levothyroxine sodium 50 mcg po/ng daily
[ ] Zinc sulfate 220 mg po/ng daily for 11 additional days
[ ] Ascorbic acid ___ mg po/ng bid for 3 additional days

Changed medications:
None

Held medications:
None
 
Followup Instructions:
___